US09120777B2
K) Methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate
[1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium (II) (416 mg), triethylamine (1.59 mL) and methanol (6.91 mL) was added to a solution of tert-butyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate (2.38 g) in DMF (15 mL) at room temperature. The mixture was stirred at 90 C under 0.5 MPa of carbon monoxide atmosphere for 7 hours. The mixture was quenched with water at room temperature and filtrated through celite. The filtrate was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was passed through a silica gel (NH, hexane/ethyl acetate) and concentrated in vacuo. The residue was triturated with diisopropyl ether/hexane and collected by filtration to give the title compound (1.77 g).

reactant | triethylamine | 1.59 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 6.91 mL | CO | CH4O
reactant | tert-butyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 2.38 g | IC1=C(C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C16H23IN2O3
reactant | carbon monoxide | [C]=O | CO
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium | 416 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 1.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)C)=O | C18H26N2O5
